US08536338B2
Step 1 Preparation of 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-N-(1-phenylcyclopropyl)benzamide
DIEA (286 μL, 1.64 mmol) was added to a stirring solution of HATU (311 mg, 0.819 mmol), 1-phenylcyclopropanamine hydrochloride (111 mg, 0.655 mmol), and 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)benzoic acid (225 mg, 0.546 mmol) in DMF (6 mL) at room temperature. It was allowed to stir for 1 hour. The mixture was diluted with EtOAc and washed with 1M HCl, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated to give the expected product 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-N-(1-phenylcyclopropyl)benzamide (180 mg, 0.341 mmol, 63% yield) consistent by LCMS. LC-MS retention time: 1.89 min; m/z (MH+): 529. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | DIEA | 1.64 mmol, 286 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.819 mmol, 311 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-phenylcyclopropanamine hydrochloride | 0.655 mmol, 111 mg | Cl.C1(=CC=CC=C1)C1(CC1)N
reactant | 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)benzoic acid | 0.546 mmol, 225 mg | BrC1=C(OC2=NC=C(C=C21)C=2C=C(C(=O)O)C=CC2)C2=CC=C(C=C2)F | C20H11BrFNO3
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)-N-(1-phenylcyclopropyl)benzamide | 0.341 mmol, 180 mg, 63% yield | BrC1=C(OC2=NC=C(C=C21)C=2C=C(C(=O)NC1(CC1)C1=CC=CC=C1)C=CC2)C2=CC=C(C=C2)F | C29H20BrFN2O2
